US04933489
A benzene (8 ml) solution of 2,3-dimethoxybenzo-1,4-quinone (1.0 g, 5.9 mmol) and 3-chloro-1-methoxy-1,3-butadiene (1.4 g, 12.0 mmol) is stirred for 35 hours under an inert atmosphere. After this time, oxygen or air is briefly bubbled through the solution (20 minutes) and the contents are passed through a silica gel plug to afford 1.07 g (72%) of analytically pure 2,3-dimethoxy-6-chloro-1,4-naphthoquinone, mp 127°-130° C.

reactant | 2,3-dimethoxybenzo-1,4-quinone | 5.9 mmol, 1.0 g | COC=1C(=O)C=CC(C1OC)=O | C8H8O4
reactant | 3-chloro-1-methoxy-1,3-butadiene | 12.0 mmol, 1.4 g | ClC(C=COC)=C | C5H7ClO
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
product | 2,3-dimethoxy-6-chloro-1,4-naphthoquinone | COC=1C(C2=CC=C(C=C2C(C1OC)=O)Cl)=O | C12H9ClO4
